US07560468B2
Preparation of 1,3-dibenzyl-8-(4-methoxy-benzenesulfonyl)-1,4,8-triazaspiro-[4,5]decan-2-one
Triethylamine (0.12 ml, 0.89 mmol) and subsequently 4-methoxybenzenesulfonyl chloride (308 mg, 1.49 mmol) were added to a solution of 1,3-dibenzyl-1,4,8-triaza-spiro[4,5]decan-2-one (249 mg, 0.75 mmol) in CH2Cl2 (6.7 ml) with stirring under a blanket of nitrogen at RT. The reaction mixture was stirred overnight. The organic phase was rendered alkaline using saturated aqueous sodium carbonate solution (20 ml), and the aqueous phase was extracted with CH2Cl2 (15 ml). The combined organic phases were dried over Na2SO4. After filtration, removal of the solvent, and column chromatography, the desired product 1,3-dibenzyl-8-(4-methoxy-benzenesulfonyl)-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 301 mg (79% of theory).

reactant | Triethylamine | 0.89 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 1.49 mmol, 308 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1,3-dibenzyl-1,4,8-triaza-spiro[4,5]decan-2-one | 0.75 mmol, 249 mg | C(C1=CC=CC=C1)N1C(C(NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 6.7 ml | C(Cl)Cl | CH2Cl2
product | 1,3-dibenzyl-8-(4-methoxy-benzenesulfonyl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C(C(NC12CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)OC)CC2=CC=CC=C2)=O | C28H31N3O4S
